* C:\Users\Ian Diaz\Desktop\TP01\Ex2\Spice.asc
R1 N003 N002 3.785k
C1 N003 0 560p
R2 N002 N001 50
V1 N001 0 SINE(0 1 1K) AC 1
;tran 0 15.625u 7.8125u startup
.ac dec 5 1 10meg
.backanno
.end
